US07795250B2
Step 1: 3-Cyclohex-1-en-1-yl-1H-indole-6-carboxylic acid
To a solution of methyl-indole-6-carboxylate in MeOH (1.7 M) was added cyclohexanone (3.0 eq.) followed by 30% NaOMe in MeOH (6.0 eq.) in 100 ml portions over 20 min. The resulting mixture was stirred at RT for 45 min and refluxed for 8 h. Water was added, and the mixture stirred at RT until all solids had dissolved. The organic solvent was removed under vacuum and the pH of the aqueous phase adjusted to 1, by slow addition of concentrated HCl at 0° C. The precipitate was isolated by filtration, and then washed with water, until the pH of the water reached 6-7. Drying under high, vacuum gave the title compound as a beige solid (100%). 1H NMR (300 MHz, DMSO-d6, 300 K) δ 1.49-1.98 (m, 8H), 6.22 (bs, 1H), 7.50 (s, 1H), 7.64 (d, J 7.6, 1H), 7.75 (d, J 7.6, 1H), 8.02 (s, 1H), 11.39 (s, 1H); MS (ES+) m/z 242 (M+H)+.

reactant | methyl-indole-6-carboxylate | COC(=O)C1=CC=C2C=CNC2=C1 | C10H9NO2
reactant | cyclohexanone | 3.0 eq. | C1(CCCCC1)=O | C6H10O
reactant | NaOMe | C[O-].[Na+]
reactant | Water | O | H2O
solvent | MeOH | 1.7 M | CO | CH4O
solvent | MeOH | 6.0 eq. | CO | CH4O
product | 3-Cyclohex-1-en-1-yl-1H-indole-6-carboxylic acid | 100% | C1(=CCCCC1)C1=CNC2=CC(=CC=C12)C(=O)O | C15H15NO2
